US08871756B2
A mixture of methyl 4-aminopyridine-3-carboxylate (100 g, 0.6 mol) and acetic anhydride (240 g, 2.4 mol) in anhydrous 1,4-dioxane (1.2 L) was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and diluted with water (800 mL). The mixture was neutralized with a saturated aqueous solution of sodium bicarbonate to pH 7. The formed solid was collected by filtration and dried in vacuo to afford 50 g of methyl 4-(acetylamino)pyridine-3-carboxylate as a white solid.

reactant | methyl 4-aminopyridine-3-carboxylate | 0.6 mol, 100 g | NC1=C(C=NC=C1)C(=O)OC | C7H8N2O2
reactant | acetic anhydride | 2.4 mol, 240 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | 1,4-dioxane | 1.2 L | O1CCOCC1 | C4H8O2
product | methyl 4-(acetylamino)pyridine-3-carboxylate | 50 g | C(C)(=O)NC1=C(C=NC=C1)C(=O)OC | C9H10N2O3
